US05532240
A mixture of 5.9 g of 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, 5 g of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride, 6.7 g of potassium carbonate and 3.2 g of potassium iodide in 50 ml of dimethylformamide and 50 ml of toluene was stirred at 50° C. for 7 hours and poured into water. The toluene layer was washed with water, dried over magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel and crystallized from isopropyl ether. The resulting crystals were recrystallized from acetonitrile to give 6-acetyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl) ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine, m.p. 70°-75° C.

reactant | 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 5.9 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCBr | C12H16BrNOS
reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine hydrochloride | 5 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.2 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 6-acetyl-3-(2-(4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidin-1-yl) ethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCN2CCC(CC2)C2=NOC1=C2C=CC(=C1)F | C24H28FN3O2S
